


.topckt Comparator_1to7_0p7_lvt caln calp clke d db inm<0> inm<1> inp<0> inp<1> vb vdd vss

xm29 vout1p clk vdd vdd pch_lvt_mac l=40e-9 w=1.6e-6 multi=1 nf=2 

xm32 vout1m clk vdd vdd pch_lvt_mac l=40e-9 w=1.6e-6 multi=1 nf=2 

xm18 clk net043 vdd vdd pch_lvt_mac l=40e-9 w=3.2e-6 multi=1 nf=4 

xm19 net043 clke vdd vdd pch_lvt_mac l=40e-9 w=800e-9 multi=1 nf=2 

xm7 db vout2p vdd vdd pch_lvt_mac l=40e-9 w=600e-9 multi=1 nf=1 

xm28 vout2p vout2m vdd vdd pch_lvt_mac l=120e-9 w=12.8e-6 multi=1 nf=8 

xm38 vdd vss vdd vdd pch_lvt_mac l=40e-9 w=800e-9 multi=1 nf=2 

xm39 vdd vss vdd vdd pch_lvt_mac l=40e-9 w=3.2e-6 multi=1 nf=4 

xm34 vout2m vout2p vdd vdd pch_lvt_mac l=120e-9 w=12.8e-6 multi=1 nf=8 

xm25 vout2p clk vdd vdd pch_lvt_mac l=40e-9 w=800e-9 multi=1 nf=2 

xm8 d vout2m vdd vdd pch_lvt_mac l=40e-9 w=600e-9 multi=1 nf=1 

xm33 vout2m clk vdd vdd pch_lvt_mac l=40e-9 w=800e-9 multi=1 nf=2 

xm35 net058 clk net040 vss nch_lvt_mac l=40e-9 w=1e-6 multi=1 nf=1 

xm10 vout1m inp<0> net058 vss nch_lvt_mac l=200e-9 w=1.2e-6 multi=1 nf=1 

xm36 net040 vb vss vss nch_lvt_mac l=40e-9 w=1e-6 multi=1 nf=1 

xm9 d vout2m vss vss nch_lvt_mac l=40e-9 w=400e-9 multi=1 nf=1 

xm48 vss vdd vss vss nch_lvt_mac l=160e-9 w=2.4e-6 multi=1 nf=2 

xm41 vss vdd vss vss nch_lvt_mac l=40e-9 w=400e-9 multi=1 nf=2 

xm43 vss vdd vss vss nch_lvt_mac l=40e-9 w=6e-6 multi=1 nf=6 

xm42 vss vdd vss vss nch_lvt_mac l=40e-9 w=800e-9 multi=1 nf=2 

xm11 vout1p inm<0> net058 vss nch_lvt_mac l=200e-9 w=1.2e-6 multi=1 nf=1 

xm26 clk net043 vss vss nch_lvt_mac l=40e-9 w=800e-9 multi=1 nf=2 

xm14 vout2p vout2m vout1p vss nch_lvt_mac l=120e-9 w=6.4e-6 multi=1 nf=8 

xm12 vout1p inm<1> net057 vss nch_lvt_mac l=200e-9 w=1.2e-6 multi=7 nf=1 

xm37 net041 vb vss vss nch_lvt_mac l=40e-9 w=1e-6 multi=7 nf=1 

xm40 net057 clk net041 vss nch_lvt_mac l=40e-9 w=1e-6 multi=7 nf=1 

xm6 db vout2p vss vss nch_lvt_mac l=40e-9 w=400e-9 multi=1 nf=1 

xm27 net043 clke vss vss nch_lvt_mac l=40e-9 w=400e-9 multi=1 nf=2 

xm13 vout1m inp<1> net057 vss nch_lvt_mac l=200e-9 w=1.2e-6 multi=7 nf=1 

xm21 vout2m vout2p vout1m vss nch_lvt_mac l=120e-9 w=6.4e-6 multi=1 nf=8 

m1 vout2m calp vout2m vout2m pch_lvt l=500e-9 w=16e-6 m=1 nf=2 

m2 vout2p vss vout2p vout2p pch_lvt l=500e-9 w=64e-6 m=1 nf=8 

m3 vout2p caln vout2p vout2p pch_lvt l=500e-9 w=16e-6 m=1 nf=2 

m0 vout2m vss vout2m vout2m pch_lvt l=500e-9 w=64e-6 m=1 nf=8 
.ends Comparator_1to7_0p7_lvt
